US08357717B2
Stage 2: Methyl 4-formyl-1H-imidazole-5-carboxylate
Acetic acid (244 mmol, 34.7 equiv.) was added to a solution of methyl 4-(diethoxy-methyl)-1H-imidazole-5-carboxylate (7.04 mmol, 1 equiv.) in water (4.2 ml), and the resulting mixture was stirred for 6 h at 25° C. under nitrogen. Toluene was added to the reaction mixture, and the solvent was removed in vacuo in order thus to yield the desired product in the form of a yellow solid. This was used in the following stage without further purification. Yield: quantitative

reactant | Acetic acid | 244 mmol, 34.7 equiv. | C(C)(=O)O | C2H4O2
reactant | methyl 4-(diethoxy-methyl)-1H-imidazole-5-carboxylate | 7.04 mmol, 1 equiv. | C(C)OC(C=1N=CNC1C(=O)OC)OCC | C10H16N2O4
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 4.2 ml | O | H2O
product | Methyl 4-formyl-1H-imidazole-5-carboxylate | Yield: quantitative | C(=O)C=1N=CNC1C(=O)OC | C6H6N2O3
